US04895996
To a mixture of 1.22 g (10.0 mmoles) of solid 9-borabicyclo[3.3.1]nonane (9-BBN) and 2.66 g (10.0 mmoles) of [E]-1-morpholino-1,2-diphenylethene is added 5.0 ml of tetrahydrofuran (THF). The mixture is stirred at 25° C. for 12 hours. The THF is removed under a pressure of about 12 Torr at 25° C. at the end of the 12 hours. The residue is dissolved in 10 ml of methanol and stirred at 25° C. for an additional 12 hours. A by-product, 9-methoxy-9-borabicyclo[3.3.1]nonane morpholine complex crystallizes out of the reaction mixture and is separated by filtration. The methanol is evaporated from the filtrate and the residue is distilled under reduced pressure. The product, 1.17 g of [Z]-1,2-diphenylethene is produced in a yield of 65 percent based on the [E]-1-morpholino-1,2-diphenylethene. The product has a boiling point of 82° C.-84° C. at 0.4 Torr. The stereochemistry of the product is confirmed by 1H and 13C NMR spectroscopy. None of the [E] isomer is detected.

reactant | 9-borabicyclo[3.3.1]nonane | C12CCCC(CCC1)B2 | C8H15B
reactant | [E]-1-morpholino-1,2-diphenylethene | 10.0 mmoles, 2.66 g | O1CCN(CC1)\C(=C\C1=CC=CC=C1)\C1=CC=CC=C1 | C18H19NO
solvent | tetrahydrofuran | 5.0 ml | O1CCCC1 | C4H8O
product | [Z]-1,2-diphenylethene | 1.17 g, yield of 65 percent | C1(=CC=CC=C1)\C=C/C1=CC=CC=C1 | C14H12
